US04018802
Step E. 8-Methylsulfonyl-12-hydroxy-13,13-dimethylheptadecanoic acid
The synthesis of this compound is carried out by hydrogenation exactly as described in Example 15 except that 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid is replaced by an equivalent quantity of 8-methylsulfonyl-12-hydroxy-13,13-dimethyl-10-heptadecynoic acid.

reactant | 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#C[C@H](CCCCC)O | C18H32O5S
reactant | 8-methylsulfonyl-12-hydroxy-13,13-dimethyl-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#CC(C(CCCC)(C)C)O | C20H36O5S
product | 8-Methylsulfonyl-12-hydroxy-13,13-dimethylheptadecanoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(C(CCCC)(C)C)O | C20H40O5S
